US04352860
Synthesis of N-stearylbenzamide (Compound (3)-1)
27 g of stearylamine was dispersed in 100 ml of toluene. To this dispersion was added 13 g of benzoyl chloride at 70° C. An exothermic reaction occurred and the temperature of the mixture increased to 80° C. The reaction mixture was heated to 100° C. and that temperature was maintained for about 20 hours until generation of hydrogen chloride gas was terminated. The reaction mixture was cooled, from which white crude crystals were separated. The thus obtained white crystals were neutralized with sodium hydroxide and were then recrystallized from alcohol. This recrystallization gave white crystals melting at 85° C. to 87° C. The yield was 83%.

reactant | stearylamine | 27 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | benzoyl chloride | 13 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-stearylbenzamide | yield was 83% | C(CCCCCCCCCCCCCCCCC)NC(C1=CC=CC=C1)=O | C25H43NO
